US07906517B2
6-Aminohexanoic acid methyl ester hydrochloride (5 g) is dissolved in methylene chloride (20 ml) and thereto are added pyridine (4.5 ml) and acetyl chloride (2 ml), and the mixture is stirred at room temperature for 1 hour and 45 minutes. To the reaction solution are added a 1N-hydrochloric acid and chloroform, and the mixture is separated, and the organic layer is washed with a saturated brine, dried over magnesium sulfate, and concentrated under reduced pressure to give methyl 6-acetylamino-hexanoate (5.19 g) as a crude product. MS (m/z): 188 [M+H]+

reactant | 6-Aminohexanoic acid methyl ester hydrochloride | 5 g | Cl.COC(CCCCCN)=O
reactant | pyridine | 4.5 ml | N1=CC=CC=C1 | C5H5N
reactant | acetyl chloride | 2 ml | C(C)(=O)Cl | C2H3ClO
reactant | hydrochloric acid | Cl | ClH
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | methyl 6-acetylamino-hexanoate | 5.19 g | C(C)(=O)NCCCCCC(=O)OC | C9H17NO3
